US07173135B2
3-cyano-7-methoxy-5-[(1-methylpiperidin-4-yl)oxy]4-[4-(3-methoxyprop-1-ynyl)-2,3-methylenedioxyanilino]quinoline dihydrochloride salt
A mixture of 4-chloro-3-cyano-7-methoxy-5-[(1-methylpiperidin-4-yl)oxy]quinoline (165 mg) and 4-(3-methoxyprop-1-ynyl)-2,3-methylendioxyaniline (123 mg) in 1-propanol (10 ml) was treated with a 1.0M solution of hydrogen chloride in diethyl ether (0.5 ml) then stirred and heated at reflux for 2 hours. On cooling a solid precipitated from the reaction mixture. The resulting suspension was basified with aqueous ammonia and evaporated to a gum. This residue was purified by multi-injection preparative RP HPLC [Kromasil C18 5 μm silica column, 100 mm×10 mm; eluted with a mixture of acetonitrile (55%) and 0.1% aqeous ammonia solution (45%)]. After isolation, the major product was converted to its dihydrochloride salt in acetonitrile using two equivalents of a 1.0M solution of hydrogen chloride in diethyl ether. The title compound was thus obtained as a yellow solid (81 mg); NMR Spectrum: (DMSOd6 & CD3COOD, 373K) 2.17 (m, 2H), 2.38 (m, 2H), 2.77 (s, 3H), 3.30 (m, 4H), 3.37 (s, 3H), 3.96 (s, 3H), 4.33 (s, 2H), 5.04 (m, 1H), 6.12 (s, 2H), 6.92 (d, 1H), 6.97 (m, 2H), 7.08 (s, 1H), 8.63 (s, 1H); Mass Spectrum: M+H+ 501.

reactant | 4-chloro-3-cyano-7-methoxy-5-[(1-methylpiperidin-4-yl)oxy]quinoline | 165 mg | ClC1=C(C=NC2=CC(=CC(=C12)OC1CCN(CC1)C)OC)C#N | C17H18ClN3O2
reactant | 4-(3-methoxyprop-1-ynyl)-2,3-methylendioxyaniline | 123 mg | COCC#CC1=C2C(=C(N)C=C1)OCO2 | C11H11NO3
reactant | hydrogen chloride | Cl | ClH
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | acetonitrile | two equivalents | C(C)#N | C2H3N
solvent | 1-propanol | 10 ml | C(CC)O | C3H8O
solvent | diethyl ether | 0.5 ml | C(C)OCC | C4H10O
product | 3-cyano-7-methoxy-5-[(1-methylpiperidin-4-yl)oxy]4-[4-(3-methoxyprop-1-ynyl)-2,3-methylenedioxyanilino]quinoline dihydrochloride salt | Cl.Cl.C(#N)C=1C=NC2=CC(=CC(=C2C1NC1=C2C(=C(C=C1)C#CCOC)OCO2)OC2CCN(CC2)C)OC | InChI=1S/C28H28N4O5.2ClH/c1-32-10-8-20(9-11-32)37-24-14-21(34-3)13-23-25(24)26(19(15-29)16-30-23)31-22-7-6-18(5-4-12-33-2)27-28(22)36-17-35-27;;/h6-7,13-14,16,20H,8-12,17H2,1-3H3,(H,30,31);2*1H
